US08471004B2
C) (3S,6S)-3-Carboxymethyl-6-methyl-5-oxo-hexahydro-oxazolo[3,2-a]pyrazine-7-carboxylic acid benzyl ester
Solutions of sodium chlorite (66 mg, 0.58 mmol in 0.5 mL water) and 10% aq. sodium hypochlorite (4 μL, 6 μmol in 0.2 mL water) were added simultaneously at 35° C. to a mixture of (3S,6S)-3-(2-hydroxy-ethyl)-6-methyl-5-oxo-hexahydro-oxazolo[3,2-a]pyrazine-7-carboxylic acid benzyl ester (98 mg, 0.29 mmol), 2,2,6,6-tetramethylpiperidine-1-oxyl radical (3 mg, 20 μmol) in 1 M aq. potassium phosphate buffer (pH 6.85; 0.75 mL) and acetonitrile (1 mL). The reaction mixture was heated at 45° C. for 16 h, then cooled to 0° C., diluted with water and EtOAc and treated with 1 M sodium thiosulfate solution. The pH was then set to 3-4 by addition of 2 M aq. hydrochloric acid solution. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and evaporated. Chromatography (SiO2; DCM→DCM/MeOH/25% aq. ammonia solution 90:10:0.25) afforded the title compound (84 mg, 82%). Colourless gum, MS: 347.1 (M−H)−.

reactant | sodium chlorite | 0.58 mmol, 0.5 mL, 66 mg | Cl(=O)[O-].[Na+]
reactant | (3S,6S)-3-(2-hydroxy-ethyl)-6-methyl-5-oxo-hexahydro-oxazolo[3,2-a]pyrazine-7-carboxylic acid benzyl ester | 0.29 mmol, 98 mg | C(C1=CC=CC=C1)OC(=O)N1CC2N(C([C@@H]1C)=O)[C@H](CO2)CCO | C17H22N2O5
reactant | sodium thiosulfate | 1 M | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | potassium phosphate | 1 M, 0.75 mL, pH 6.85 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | sodium hypochlorite | 6 μmol, 4 μL | Cl[O-].[Na+]
catalyst | 2,2,6,6-tetramethylpiperidine-1-oxyl | 20 μmol, 3 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | (3S,6S)-3-Carboxymethyl-6-methyl-5-oxo-hexahydro-oxazolo[3,2-a]pyrazine-7-carboxylic acid benzyl ester | 84 mg, 82% | C(C1=CC=CC=C1)OC(=O)N1CC2N(C([C@@H]1C)=O)[C@H](CO2)CC(=O)O | C17H20N2O6
